US04440566
0.2 g of metallic sodium was dissolved in 1 ml of methanol and then added to 3.2 g of 5-(2-ethylthiopropyl)cyclohexane-1,3dione. 20 ml of butyric anhydride was added and the mixture then refluxed for three hours. The mixture was then evaporated and the residue mixed with methylene chloride and then extracted with aqueous 5 wt.% sodium hydroxide. The base extract was washed with methylene chloride, then acidified with concentrated hydrochloric acid and then extracted into methylene chloride. This was then evaporated affording 2-butyryl-5-(2-ethylthiopropyl) cyclohexane-1,3-dione.

reactant | sodium | 0.2 g | [Na] | Na
reactant | 5-(2-ethylthiopropyl)cyclohexane-1,3dione | 3.2 g | C(C)SC(CC1CC(CC(C1)=O)=O)C | C11H18O2S
reactant | butyric anhydride | 20 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | methanol | 1 ml | CO | CH4O
product | 2-butyryl-5-(2-ethylthiopropyl) cyclohexane-1,3-dione | C(CCC)(=O)C1C(CC(CC1=O)CC(C)SCC)=O | C15H24O3S
